US06762320B2
N-[3-Chloro-4-(3-fluoro-benzyloxy)-phenyl]-malonamide
Prepared in analogy to example 3 from N-[3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-malonamic acid methyl ester and 7M ammonia in methanol. Yield=100%. Colorless solid. MS: m/e=337.1 (M++H).

reactant | N-[3-chloro-4-(3-fluoro-benzyloxy)-phenyl]-malonamic acid methyl ester | COC(CC(=O)NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl)=O | C17H15ClFNO4
reactant | ammonia | 7M | N | H3N
solvent | methanol | CO | CH4O
product | N-[3-Chloro-4-(3-fluoro-benzyloxy)-phenyl]-malonamide | Yield=100% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC(CC(=O)N)=O | C16H14ClFN2O3
